US07411072B2
2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid
Add n-BuLi (1.6M in hexanes, 12.98 Ml, 20.76 mmol) portionwise (exothermic) to a solution of 5-(2-bromo-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (5.00 g, 13.84 mmol) in dry THF (50 Ml) at −78° C. under N2. Let stir at −78° C. for 30 min, then add triisopropyl borate (5.21 g, 27.68 mmol) and warm up to room temperature overnight. Add 50 Ml 1.00N HCl and stir for 15 min. Extract into ethyl acetate, dry (MgSO4) and concentrate organics to a brown foam. Recrystallize from boiling hexanes, then chromatograph on silica gel (40 g), eluting with 20% to 50% ethyl acetate/hexanes to afford the title compound as a white foam, mp 134.1° C. MS (ES) 325 (M−H); HPLC shows 82% purity.

reactant | n-BuLi | 20.76 mmol, 1.6M | [Li]CCCC
reactant | 5-(2-bromo-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 13.84 mmol, 5.00 g | BrC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1 | C22H17Br
reactant | triisopropyl borate | 27.68 mmol, 5.21 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1.00N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)B(O)O | C22H19BO2
